US08648201B2
22.2 5.2 g (0.016 mol) of N-(3-amino-4-nitrophenyl)-2-(2-chloroethoxy)acetamide are suspended in 250 ml of acetonitrile, and 6.6 g (0.02 mol) of caesium carbonate are added. The mixture is stirred at room temperature for 18 h. The batch is poured into about 250 ml of water and extracted 3× with 200 ml of ethyl acetate each time. The entire organic phases are dried using anhydrous sodium sulfate, filtered, and the solvent is stripped off in a Rotavapor to a residual volume of about 150 ml. The crystals deposited during evaporation in the rotary evaporator are separated off and dried, giving 4-(3-amino-4-nitrophenyl)morpholin-3-one, HPLC-MS [M+H]+ 238.1.

reactant | N-(3-amino-4-nitrophenyl)-2-(2-chloroethoxy)acetamide | NC=1C=C(C=CC1[N+](=O)[O-])NC(COCCCl)=O | C10H12ClN3O4
reactant | caesium carbonate | 0.02 mol, 6.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | about 250 ml | O | H2O
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 4-(3-amino-4-nitrophenyl)morpholin-3-one | NC=1C=C(C=CC1[N+](=O)[O-])N1C(COCC1)=O | C10H11N3O4
